US07777047B2
N-methyl-N-{2-[5-methyl-5-(piperazine-1-ylmethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a mixture of triphenylphosphine oxide (3.09 g) and acetonitrile (20 mL) was slowly added trifluoromethanesulfonic anhydride (0.93 mL) at 0° C., and the mixture was stirred for 10 min. tert-Butyl 4-{2-(benzylthio)-2-methyl-3-[({7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}carbonyl)amino]propyl}piperazine-1-carboxylate (1.55 g) and dimethylsulfide (0.24 mL) were added, and the reaction mixture was stirred at 0° C. for 30 min. Saturated aqueous sodium hydrogencarbonate was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was added to 4N hydrogen chloride-ethyl acetate solution, and the resulting crystals were collected by filtration, and washed with ethyl acetate. The obtained crystals were added to saturated aqueous sodium hydrogencarbonate, and the mixture was stirred for 30 min. The crystals were collected by filtration, washed with water and ethyl acetate, and dried to give the title compound (0.49 g, yield 45%) as colorless crystals. melting point 178-180° C.

reactant | triphenylphosphine oxide | 3.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.93 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | tert-Butyl 4-{2-(benzylthio)-2-methyl-3-[({7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}carbonyl)amino]propyl}piperazine-1-carboxylate | 1.55 g | C(C1=CC=CC=C1)SC(CN1CCN(CC1)C(=O)OC(C)(C)C)(CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)C | C34H43N5O5S3
reactant | dimethylsulfide | 0.24 mL | CSC | C2H6S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-methyl-N-{2-[5-methyl-5-(piperazine-1-ylmethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.49 g, yield 45% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)(CN1CCNCC1)C | C22H27N5O2S3
